subckt ao2111_x1 A1 A2 B1 B2 C X VDD VSS
AO2111A0_PA0 (ao2111_and_n A1 VDD VDD) pmos w=2u l=100n
AO2111A0_PB0 (ao2111_and_n A2 VDD VDD) pmos w=2u l=100n
AO2111A0_NB0 (ao2111_and_n A2 nmid_AO2111A0_0 VSS) nmos w=1u l=100n
AO2111A0_NA0 (nmid_AO2111A0_0 A1 VSS VSS) nmos w=1u l=100n
AO2111AI0_P0 (ao2111_and ao2111_and_n VDD VDD) pmos w=2u l=100n
AO2111AI0_N0 (ao2111_and ao2111_and_n VSS VSS) nmos w=1u l=100n
AO2111N40_PA0 (no4_1 ao2111_and VDD VDD) pmos w=2u l=100n
AO2111N40_PB0 (no4_2 B1 no4_1 VDD) pmos w=2u l=100n
AO2111N40_PC0 (no4_3 B2 no4_2 VDD) pmos w=2u l=100n
AO2111N40_PD0 (ao2111_or4_n C no4_3 VDD) pmos w=2u l=100n
AO2111N40_NA0 (ao2111_or4_n ao2111_and VSS VSS) nmos w=1u l=100n
AO2111N40_NB0 (ao2111_or4_n B1 VSS VSS) nmos w=1u l=100n
AO2111N40_NC0 (ao2111_or4_n B2 VSS VSS) nmos w=1u l=100n
AO2111N40_ND0 (ao2111_or4_n C VSS VSS) nmos w=1u l=100n
AO2111O0_P0 (X ao2111_or4_n VDD VDD) pmos w=2u l=100n
AO2111O0_N0 (X ao2111_or4_n VSS VSS) nmos w=1u l=100n
ends ao2111_x1
